US08729061B2
Step B8: (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide
(2S,3S)—N-Cyclopropyl-3-(dibenzylamino)-2-hydroxypentanamide (4.42 g, 12.5 mmol, Eq: 1.00) was hydrogenated with Pd(OH)2 (20% on carbon, 890 mg, 1.27 mmol, Eq: 0.101) in methanol (50 ml) under a hydrogen pressure of 3.5 bar for 4 h. The catalyst was removed by filtration, and residual solvent was removed under vacuum. The title compound was obtained as a light yellow solid (2.09 g, 96.8%, MS (m/e)=173.2 [M+H+]).

reactant | (2S,3S)—N-Cyclopropyl-3-(dibenzylamino)-2-hydroxypentanamide | 12.5 mmol, 4.42 g | C1(CC1)NC([C@H]([C@H](CC)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O)=O | C22H28N2O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd(OH)2 | 1.27 mmol, 890 mg | [OH-].[OH-].[Pd+2]
product | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide | N[C@H]([C@@H](C(=O)NC1CC1)O)CC | C8H16N2O2
